US09428515B2
1,5-Dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid D-1
1,5-Dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid methyl ester C-1 (2.60 g; 14.35 mmol) is suspended in MeOH. Sodium hydroxide (1 M solution, 45 ml; 45.00 mmol) is added and the reaction mixture is heated up to 100° C. (Drysyn, reflux) for 2 h. MeOH is removed under reduced pressure and 1N HCl (46 ml) is added to the solution, precipitation occurs. The precipitate is filtered off and dried under reduced pressure.

reactant | 1,5-Dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid methyl ester | COC(=O)C1=CN(C(C(=C1)C)=O)C | C9H11NO3
reactant | Sodium hydroxide | 45.00 mmol, 1 M, 45 ml | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | 1,5-Dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid | CN1C=C(C=C(C1=O)C)C(=O)O | C8H9NO3
